US07875618B2
1-(2-Chloro-phenyl)-7-(quinolin-2-ylmethoxy)-3,4-dimethyl-imidazo(1,5-a)quinoxaline
1 g 1-(2-Chloro-phenyl)-3,4-dimethyl-7-hydroxy-imidazo(1,5-a)quinoxaline, 2.24 g Caesium carbonate, 50 mL N,N-dimethylformamide, 6 mL water, and 0.86 g 2-Chloro-methylquinoline hydrochloride were stirred for 3 h at 130° C. The reaction mixture was given into 150 mL water, filtered off, washed with water, dried under reduced pressure, and purified with silica gel, dichloromethane/methanol=95/5.

reactant | 1-(2-Chloro-phenyl)-3,4-dimethyl-7-hydroxy-imidazo(1,5-a)quinoxaline | 1 g | ClC1=C(C=CC=C1)C1=NC(=C2N1C1=CC=C(C=C1N=C2C)O)C | C18H14ClN3O
reactant | Caesium carbonate | 2.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | 2-Chloro-methylquinoline hydrochloride | 0.86 g | Cl.ClC1=NC2=CC=CC=C2C=C1C
solvent | water | 150 mL | O | H2O
solvent | water | 6 mL | O | H2O
product | 1-(2-Chloro-phenyl)-7-(quinolin-2-ylmethoxy)-3,4-dimethyl-imidazo(1,5-a)quinoxaline | ClC1=C(C=CC=C1)C1=NC(=C2N1C1=CC=C(C=C1N=C2C)OCC2=NC1=CC=CC=C1C=C2)C | C28H21ClN4O
